US05436292
Preparation of 1,3-Bis(nonylphenoxy)-2-propanol
To a five neck, two liter round bottom flask equipped with an addition funnel, thermometer, nitrogen dispersant tube, mechanical stirrer, and a decanting head with a water-cooled condenser were added 220 grams (1.00 mole) of nonylphenol and 250 milliliters of cyclohexane. The solution was then heated to reflux and 2.8 grams (1.3 wt. % based on nonylphenol) of potassium hydroxide in 10 ;milliliters of water was slowly added to the flask. After essentially all the water was recovered in the decanting head (10 milliliters+1 milliliter formed), 250.7 grams (0.91 mole) of nonylphenyl glycidyl ether as added dropwise. During the addition of the glycidyl ether, the reaction temperature was maintained between 60 and 80° C. After the addition was complete, the solution was refluxed for four hours. The contents of the flask were then washed with a five percent aqueous solution of phosphoric acid, and the organic layer was separated from the water layer and washed twice with deionized water. The reaction mixture was then placed in a one liter round bottom flask, and the remaining cyclohexane and unreacted nonylphenol were recovered by distillation, first at atmospheric pressure, then under vacuum at 0.2 mm Hg. The kettle temperature was not allowed to exceed 180° C. during the distillation to prevent discoloration of the product. The concentrated solution was then refiltered to give 425 grams of a pale-yellow liquid. Endgroup MW analysis gave a molecular weight of 506.8 (theoretical MW=496.8). Ir and nmr spectra were identical to previously recorded spectra for the compound.

reactant | nonylphenol | 1.00 mole, 220 grams | CCCCCCCCCC=1C=CC(=CC1)O | C15H24O
reactant | nonylphenyl glycidyl ether | 0.91 mole, 250.7 grams | C(C1CO1)OC1=C(C=CC=C1)CCCCCCCCC | C18H28O2
reactant | glycidyl ether | C(C1CO1)OCC1CO1 | C6H10O3
solvent | water | O | H2O
solvent | cyclohexane | 250 milliliters | C1CCCCC1 | C6H12
product | 1,3-Bis(nonylphenoxy)-2-propanol | 425 grams | C(CCCCCCCC)C1=C(OCC(COC2=C(C=CC=C2)CCCCCCCCC)O)C=CC=C1 | C33H52O3
